US09216965B2
To 6-(tert-butylsulfonyl)-4-chloro-7-(2,2-difluoroethoxy)quinoline (85 mg, 0.234 mmol) and 3,4-dimethyl-1H-pyrazol-5-amine (33.8 mg, 0.304 mmol) in a microwave vial was added EtOH (779 μl) followed by 1 drop of 1N aq HCl (8.52 mg, 0.234 mmol). The vial was sealed and heated to 80° C. behind a blast shield overnight. LCMS showed full conversion to product. Concentrated reaction and triturated resulting residue with ˜2 mL of MeCN using ˜1 min of sonication. Filtered resulting solid, rinsing with MeCN, and dried under vacuum resulting in the product 6-(tert-butylsulfonyl)-7-(2,2-difluoroethoxy)-N-(3,4-dimethyl-1H-pyrazol-5-yl)quinolin-4-amine, hydrochloride (93.5 mg, 0.197 mmol, 84% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.70 (s, 1H), 11.25 (br. s., 1H), 9.26 (br. s., 1H), 8.51 (d, J=7.07 Hz, 1H), 7.57 (s, 1H), 6.67 (d, J=7.33 Hz, 1H), 6.47 (tt, J=3.28, 53.81 Hz, 1H), 4.63 (td, J=3.16, 14.46 Hz, 2H), 2.24 (s, 3H), 1.84 (s, 3H), 1.34 (s, 9H). MS: m/z: 439.3 [M+H]+.

reactant | 6-(tert-butylsulfonyl)-4-chloro-7-(2,2-difluoroethoxy)quinoline | 0.234 mmol, 85 mg | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(F)F)Cl | C15H16ClF2NO3S
reactant | 3,4-dimethyl-1H-pyrazol-5-amine | 0.304 mmol, 33.8 mg | CC1=NNC(=C1C)N | C5H9N3
reactant | EtOH | 779 μl | CCO | C2H6O
catalyst | HCl | 0.234 mmol, 1N, 1 drop, 8.52 mg | Cl | ClH
solvent | MeCN | ˜2 mL | CC#N | C2H3N
product | 6-(tert-butylsulfonyl)-7-(2,2-difluoroethoxy)-N-(3,4-dimethyl-1H-pyrazol-5-yl)quinolin-4-amine, hydrochloride | 0.197 mmol, 93.5 mg, 84% yield | Cl.C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(F)F)NC1=C(C(=NN1)C)C | InChI=1S/C20H24F2N4O3S.ClH/c1-11-12(2)25-26-19(11)24-14-6-7-23-15-9-16(29-10-18(21)22)17(8-13(14)15)30(27,28)20(3,4)5;/h6-9,18H,10H2,1-5H3,(H2,23,24,25,26);1H
